US08461328B2
To a solution of 1-Benzenesulfonyl-4-chloro-5-nitro-1H-pyrrolo[2,3-b]pyridine (1 g, 3 mmol) and 4,5,6,7-Tetrahydro-3H-benzoimidazol-5-ylamine (450 mg, 3.3 mmol) in ethanol (50 ml) was added DIPEA (1 ml, 9.9 mmol). The mixture was heated to reflux for 1 h. Volatile components were removed, and the residue was extracted with ethyl acetate, washed with water and brine, the organic layer was purified by column chromatography (eluting with 10˜20% methanol in dichloromethane) to give 0.75 g (57%) of (1-Benzenesulfonyl-5-nitro-1H-pyrrolo[2,3-b]pyridin-4-yl)-(4,5,6,7-tetrahydro-3H-benzoimidazol-5-yl)-amine. LCMS (Method J, ESI): RT=0.95, m+H=438.9; 1H NMR (400 MHz, CDCl3+2 drops of CD3OD) δ: 9.20-9.15 (m, 1H), 9.05 (s, 1H), 8.17-8.14 (m, 2H), 8.05-8.00 (s, 1H), 7.65-7.48 (m, 2H), 7.55-7.45 (m, 2H), 6.80-6.75 (m, 1H), 4.60-4.50 (m, 1H), 3.30-3.20 (m, 1H), 2.95-2.80 (m, 3H), 2.30-2.00 (m, 2H).

reactant | 1-Benzenesulfonyl-4-chloro-5-nitro-1H-pyrrolo[2,3-b]pyridine | 3 mmol, 1 g | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=C(C2Cl)[N+](=O)[O-] | C13H8ClN3O4S
reactant | 4,5,6,7-Tetrahydro-3H-benzoimidazol-5-ylamine | 3.3 mmol, 450 mg | N1=CNC2=C1CCC(C2)N | C7H11N3
reactant | DIPEA | 9.9 mmol, 1 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | (1-Benzenesulfonyl-5-nitro-1H-pyrrolo[2,3-b]pyridin-4-yl)-(4,5,6,7-tetrahydro-3H-benzoimidazol-5-yl)-amine | 0.75 g, 57% | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=C(C2NC2CC1=C(N=CN1)CC2)[N+](=O)[O-] | C20H18N6O4S
